US07348116B2
3,6-Bis(diphenylamino)-9-benzoyl-9H-carbazole.
A mixture of 3,6-diiodo-9-benzoyl-9H-carbazole (5.7 mmol), diphenylamine (1.86 g, 11 mmol, available from Aldrich), powdered potassium carbonate (6.35 g, 46 mmol), copper powder (1.46 g, 23 mmol), and 18-crown-6 (0.4 g, available from Aldrich) is refluxed in o-dichlorobenzene (30 ml) under nitrogen for 24 hours. The copper and inorganic salts are filtered off and the solvent is removed by distillation. The product is recrystallized, washed with methanol, filtered, and dried.

reactant | 3,6-diiodo-9-benzoyl-9H-carbazole | 5.7 mmol | IC=1C=CC=2N(C3=CC=C(C=C3C2C1)I)C(C1=CC=CC=C1)=O | C19H11I2NO
reactant | diphenylamine | 11 mmol, 1.86 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | 46 mmol, 6.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.4 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | o-dichlorobenzene | 30 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper | 23 mmol, 1.46 g | [Cu] | Cu
product | 3,6-Bis(diphenylamino)-9-benzoyl-9H-carbazole | C1(=CC=CC=C1)N(C=1C=CC=2N(C3=CC=C(C=C3C2C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C43H31N3O
